US05051508
2-Methyl-3-(2-chloroethyl)-4-chloroquinoline hydrochloride (5.53 g, 20 mmol) and 4-methoxy-2-methylaniline (5.15 ml, 40 mmol) in ethanol (100 ml)were heated at 170° C. in a pressure vessel for 24 hours, then the solvent evaporated, the crude product taken up in dichloromethane, washed with aqueous sodium bicarbonate, dried and evaporated. Chromatography (silica gel, 2% methanolic ammonia in dichloromethane) and recrystallisation from aqueous methanol gave 1-(4-methoxy-2-methylphenyl)-4-methyl-2,3-dihydropyrrolo[3,2-c]quinoline (2.04 g, 22 %), m.p. 115°-117°.

reactant | 2-Methyl-3-(2-chloroethyl)-4-chloroquinoline hydrochloride | 20 mmol, 5.53 g | Cl.CC1=NC2=CC=CC=C2C(=C1CCCl)Cl
reactant | 4-methoxy-2-methylaniline | 40 mmol, 5.15 ml | COC1=CC(=C(N)C=C1)C | C8H11NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(4-methoxy-2-methylphenyl)-4-methyl-2,3-dihydropyrrolo[3,2-c]quinoline | 2.04 g, 22 % | COC1=CC(=C(C=C1)N1CCC=2C(=NC=3C=CC=CC3C21)C)C | C20H20N2O
